US05455258
To a solution of N-[4-methoxybenzenesulfonyl]-(D)-valine (8369 g, 29.13 mol) in methanol (30 L) at 5° C. is added thionyl chloride (2176 mL, 29.7 mol) over 2.5 hours. After stirring for 3 hours at 5° C., the reaction is stirred for 36 hours at room temperature. Most of the solvent is evaporated, and the chide product is dissolved in toluene (80 L). The toluene layer is then washed with water (20 L), saturated sodium bicarbonate (20 L), water again (20 L), 2N hydrochloric acid (20 L), brine (20 L), dried (Na2SO4), and the solvent is evaporated. The solid obtained is dissolved in ethyl acetate (8 L) and heptane (16 L) is added to induce crystallization. The precipitated product is collected by filtration to provide methyl 2(R)-[[4-methoxybenzenesulfonyl]amino]-3-methylbutanoate.

reactant | N-[4-methoxybenzenesulfonyl]-(D)-valine | 29.13 mol, 8369 g | COC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(C)C)C(=O)O | C12H17NO5S
reactant | thionyl chloride | 29.7 mol, 2176 mL | S(=O)(Cl)Cl | Cl2OS
reactant | heptane | 16 L | CCCCCCC | C7H16
solvent | methanol | 30 L | CO | CH4O
solvent | ethyl acetate | 8 L | C(C)(=O)OCC | C4H8O2
product | methyl 2(R)-[[4-methoxybenzenesulfonyl]amino]-3-methylbutanoate | COC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)OC)C(C)C | C13H19NO5S
